US09284323B2
Preparation of (S)-2-tert-butoxy-2-(3,7-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)ethyl pivalate:
To a solution of (S)-2-(7-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-tert-butoxyethyl pivalate (825 mg, 1.45 mmol) in 1,4-dioxane (7 mL) was added potassium carbonate (601 mg, 4.35 mmol), trimethylboroxine (220 mg, 1.74 mmol), and PdXPhos catalyst (107 mg, 0.145 mmol). The mixture was heated in a sealed vial in the microwave at 125° C. for 1 h. The mixture was filtered and concentrated in vacuo. The crude material was purified by column chromatography (EtOAc/hexanes) to give the desired product. 1H-NMR: 400 MHz, (CDCl3) δ: 7.84 (s, 1H), 7.66 (d, J=8 Hz, 1H), 7.62 (s, 1H), 7.36 (d, J=8 Hz, 1H), 5.48 (dd, J=9, 3 Hz, 1H), 4.65 (dd, J=12, 9 Hz, 1H), 4.16 (dd, J=12, 3 Hz, 1H), 2.75 (s, 3H), 2.54 (s, 3H), 1.23 (s, 9H) 1.12 (s, 9H).

reactant | (S)-2-(7-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-tert-butoxyethyl pivalate | 1.45 mmol, 825 mg | C(C(C)(C)C)(=O)OC[C@@H](OC(C)(C)C)C1=C(C2=CC(=CC=C2C=C1C)Br)OS(=O)(=O)C(F)(F)F | C23H28BrF3O6S
reactant | potassium carbonate | 4.35 mmol, 601 mg | C([O-])([O-])=O.[K+].[K+]
reactant | trimethylboroxine | 1.74 mmol, 220 mg | CB1OB(OB(O1)C)C | C3H9B3O3
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | (S)-2-tert-butoxy-2-(3,7-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)ethyl pivalate | C(C(C)(C)C)(=O)OC[C@H](C1=C(C2=CC(=CC=C2C=C1C)C)OS(=O)(=O)C(F)(F)F)OC(C)(C)C | C24H31F3O6S
